data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=CC2C(C)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=CCC1(C)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=CCC1(C)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=CCC1(C)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=CCC1(C)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=CCC1(C)CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CCOc1ccc(N(C)C(=O)C2=CCCC2)c(Br)c1.[Pd]", "products": "CCOc1ccc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1"}, {"reactants": "CCOc1ccc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1", "products": "CCOc1ccc2c(c1)N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "CCOc1ccc2c(c1)N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "CCOc1ccc2c(c1)N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)CC(C(C)C)CN(C(=O)Cc2cn(C)c3ccccc23)C1=O.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(C(C)C)CN(C(=O)Cc2cn(C)c3ccccc23)C1=O.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(C(C)C)CN(C(=O)Cc2cn(C)c3ccccc23)C1=O", "products": "CCC12CC(C(C)C)CN(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O.[Rh]"}, {"reactants": "CCC12CC(C(C)C)CN(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O", "products": "CCC12CC(C(C)C)CN3C(=O)CC45c6ccccc6N(C)C4C(C(=O)OC)(OC315)C2=O"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "COC1OC2OC1(F)C(OS(=O)(=O)c1ccc(C)cc1)C(OS(=O)(=O)c1ccc(C)cc1)C2OS(=O)(=O)c1ccc(C)cc1.[O-]C", "products": "COC1OC2C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C1(F)O2"}, {"reactants": "COC1OC2C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C1(F)O2.[O-]C", "products": "COC1OC2C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C1(F)O2"}, {"reactants": "COC1OC2C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C1(F)O2", "products": "COC1OC2OC1(F)C1C(=O)C21"}, {"reactants": "COC1OC2OC1(F)C1C(=O)C21.[O-]C", "products": "COC1OC2OC1(F)C1C2C1([O-])OC"}, {"reactants": "COC1OC2OC1(F)C1C2C1([O-])OC.CO", "products": "COC(=O)C1CC2(F)OC1OC2OC"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Fc1cccc(C(Cl)O[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OC(Cl)c2cccc(F)c2)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OC(Cl)c2cccc(F)c2)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(Cl)c1cccc(F)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(Cl)c1cccc(F)c1", "products": "O=C1CCN2C[C@H](OC(Cl)c3cccc(F)c3)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=C(Cl)C2(F)CC1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=C(Cl)C(F)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=C(Cl)C(F)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=C(Cl)C(F)C1CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=C(Cl)C(F)C1CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=C(Cl)C(F)C1CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(F)CC1C.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(F)CC1C.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(F)CC1C", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)C(F)CC2C.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)C(F)CC2C", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(C(=O)CC41c4ccccc4N(C)C31)C(F)CC2C"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1ccccc1C(Cl)O[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12", "products": "COc1ccccc1C(Cl)O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1"}, {"reactants": "COc1ccccc1C(Cl)O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(Cl)c1ccccc1OC"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(Cl)c1ccccc1OC", "products": "COc1ccccc1C(Cl)O[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(C(=O)C1=CCCC1)c1cc(Br)ccc1Br.[Pd]", "products": "CN(C(=O)C1=CCCC1)c1cc(Br)cc[c]1[Pd][Br]"}, {"reactants": "CN(C(=O)C1=CCCC1)c1cc(Br)cc[c]1[Pd][Br]", "products": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2cc(Br)ccc21"}, {"reactants": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2cc(Br)ccc21", "products": "CN1C(=O)C2(C=CCC2)c2cc(Br)ccc21.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
